US08283353B2
4′-({4-[trans-4-(2-cyclopropyl-2-oxoethoxy)cyclohexyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile
2-[(trans-4-{6-[(2′-Cyanobiphenyl-4-yl)methyl]-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]-N-methoxy-N-methylacetamide (0.32 g) was dissolved in tetrahydrofuran (4 mL), cyclopropylmagnesium bromide (3.3 mL, 0.5M tetrahydrofuran solution) was added dropwise, and the mixture was stirred at room temperature for 4 hr. The reaction mixture was added to 1 M hydrochloric acid, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.23 g, 75%).

reactant | 2-[(trans-4-{6-[(2′-Cyanobiphenyl-4-yl)methyl]-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]-N-methoxy-N-methylacetamide | 0.32 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CC=1C(N(C=2N(C1CCC)N=CN2)[C@@H]2CC[C@H](CC2)OCC(=O)N(C)OC)=O | C32H36N6O4
reactant | cyclopropylmagnesium bromide | 0.5M, 3.3 mL | C1(CC1)[Mg]Br
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | 4′-({4-[trans-4-(2-cyclopropyl-2-oxoethoxy)cyclohexyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | 0.23 g, 75% | C1(CC1)C(CO[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2)=O | C33H35N5O3
